US08664253B2
A solution of 2 g (7.43 mmol) of ethyl (1R,2R)-2-(4-bromophenyl)cyclopropanecarboxylate (the enantiomer of Intermediate 2 that was made in the same way but using 2,2′-Isopropylidenebis[(4S)-4-tert-butyl-2-oxazolidine]), PdCl2 (dppf)-CH2Cl2 Adduct (0.303 g, 0.372 mmol), dppf (0.206 g, 0.372 mmol), potassium acetate (oven dried) (2.188 g, 22.29 mmol), bis(pinacolato)diboron (2.453 g, 9.66 mmol) in dioxane (17 mL) was placed under an atmosphere of nitrogen and heated at 150° C. for 20 min via microwave irradiation. Water was added and the mixture was extracted with ethyl acetate. The organics were dried (MgSO4), concentrated, and purified on 50 g of silica gel eluting a gradient of 0-20% ethyl acetate in hexanes to give rise to ethyl (1R,2R)-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropanecarboxylate (2.4 g, 7.59 mmol). 1H NMR (500 MHz), [(CD3)2CO]: 7.67 (d, 2H), 7.20 (d, 2H), 4.15 (m, 1H), 2.06 (m, 1H), 1.33 (s, 12H), 1.24 (m, 2H).

reactant | ethyl (1R,2R)-2-(4-bromophenyl)cyclopropanecarboxylate | 7.43 mmol, 2 g | BrC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC | C12H13BrO2
reactant | potassium acetate | 22.29 mmol, 2.188 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 9.66 mmol, 2.453 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Water | O | H2O
solvent | dioxane | 17 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 0.372 mmol, 0.206 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | ethyl (1R,2R)-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropanecarboxylate | 7.59 mmol, 2.4 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC)C | C18H25BO4
